US04052404
40 ml. of dichloromethane are added to a suspension of 1.00 g. of 1-ethyl-1-(2-cyanoethyl)-1,2,3,4,6,7-hexahydro-12H-indolo(2,3 -a)quinolizinium perchlorate in 100 ml. of distilled water, and the pH of the mixture is adjusted to 10 to 11 with 40% sodium hydroxide solution. During this operation the mixture is cooled with water and stirred in argon atmosphere. After some minutes of stirring the separated red organic phase is removed, and the aqueous phase is extracted with 20 ml. of dichloromethane. The organic solutions are combined, dried over magnesium sulfate, and the solvent is evaporated in vacuo. The obtained 0.75 g. of red, oily residue is triturated with 1 ml. of methanol, and the resulting orange-red crystals are filtered off. 0.72 g. of (1-ethyl-1,2,3,4,6,7-hexahydro-indolo[2,3-a]quinolizin-1-yl)-propionitrile are obtained; m.p.: 122-123° C.

reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 1-ethyl-1-(2-cyanoethyl)-1,2,3,4,6,7-hexahydro-12H-indolo(2,3 -a)quinolizinium perchlorate | Cl(=O)(=O)(=O)[O-].C(C)C1(CCC[N+]=2CCC3=C(C12)NC1=CC=CC=C13)CCC#N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | (1-ethyl-1,2,3,4,6,7-hexahydro-indolo[2,3-a]quinolizin-1-yl)-propionitrile | C(C)C1(CCCN2CCC=3C(=C12)N=C1C=CC=CC13)C(C#N)C | C20H23N3
